US04559177
To a solution of 12-acetoxy-n-dodecanoyl chloride (8.5 g) in 1,2-dichloroethane (30 ml) is added aluminum chloride (8.2 g) and the mixture is stirred at room temperature for 2 hours. The mixture is cooled to 5° C. and a solution of 3,4,5-trimethoxytoluene (5.6 g) in 1,2-dichloromethane (20 ml) is added to the above mixture. The mixture is stirred at room temperature for 72 hours, and at 50° C.-60° C. for 30 minutes. Methanol (200 ml) is added to the reaction mixture and the mixture is stirred at 50° C. for 3 hours. The solvent is distilled off, and the residue is subjected to extraction with dichloromethane. The dichloromethane layer is washed with water and dried over magnesium sulfate. The solvent is distilled off to thereby leave crude crystals. The product is recrystallized from ether-hexane (1:1) to give 6-(12-hydroxy-1-oxododecyl)-2,3-dimethoxy-5-methylphenol (8.5 g) as colorless needles. Melting point 82° C.

reactant | 12-acetoxy-n-dodecanoyl chloride | 8.5 g | C(C)(=O)OCCCCCCCCCCCC(=O)Cl | C14H25ClO3
reactant | aluminum chloride | 8.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3,4,5-trimethoxytoluene | 5.6 g | COC=1C=C(C=C(C1OC)OC)C | C10H14O3
reactant | Methanol | 200 ml | CO | CH4O
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | 6-(12-hydroxy-1-oxododecyl)-2,3-dimethoxy-5-methylphenol | 8.5 g | OCCCCCCCCCCCC(=O)C1=C(C=C(C(=C1O)OC)OC)C | C21H34O5
